US08957070B2
7-({3,5-bis[(2-Fluorobenzyl)oxy]benzoyl}amino)-1H-indole-2-carboxylic acid
To a mixed solution of ethyl 7-({3,5-bis[(2-fluorobenzyl)oxy]benzoyl}amino)-1H-indole-2-carboxylate (170 mg) in tetrahydrofuran (8 mL)-methanol (8 mL) was added aqueous solution (5 mL) of 85% potassium hydroxide (150 mg), and the mixture was stirred at room temperature for 18 hr. Aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (147 mg, yield 91%) as colorless crystals. melting point 271-273° C.

reactant | ethyl 7-({3,5-bis[(2-fluorobenzyl)oxy]benzoyl}amino)-1H-indole-2-carboxylate | 170 mg | FC1=C(COC=2C=C(C(=O)NC=3C=CC=C4C=C(NC34)C(=O)OCC)C=C(C2)OCC2=C(C=CC=C2)F)C=CC=C1 | C32H26F2N2O5
reactant | methanol | 8 mL | CO | CH4O
reactant | potassium hydroxide | 5 mL, 150 mg | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 7-({3,5-bis[(2-Fluorobenzyl)oxy]benzoyl}amino)-1H-indole-2-carboxylic acid | 147 mg, yield 91% | FC1=C(COC=2C=C(C(=O)NC=3C=CC=C4C=C(NC34)C(=O)O)C=C(C2)OCC2=C(C=CC=C2)F)C=CC=C1 | C30H22F2N2O5
